US08431563B2
2-Thiophenesulfonyl chloride (0.28 g, 1.5 mmol, Sigma-Aldrich, St. Louis, Mo.) was added to a stirring solution of 2-(4-((2S)-2-ethyl-1-piperazinyl)phenyl)-1,1,1,3,3,3-hexafluoro-2-propanol hydrochloride (0.55 g, 1.5 mmol), Hünig's base (0.81 mL, 4.6 mmol), and DMF (7.7 mL) at room temperature. After 19 h, the reaction mixture was partitioned between EtOAc (20 mL) and saturated aqueous sodium bicarbonate (10 mL). The layers were separated, and the organic material was washed sequentially with saturated aqueous sodium bicarbonate (10 mL) and brine (10 mL), dried (Na2SO4) and purified via column chromatography (40 g of silica, 20 to 33% EtOAc in hexanes) to give 2-(4-((2S)-2-ethyl-4-(2-thiophenylsulfonyl)-1-piperazinyl)phenyl)-1,1,1,3,3,3-hexafluoro-2-propanol (0.13 g) as an off-white solid. 1H NMR (400 MHz, CDCl3): δ 7.63 (d, J=5.1 Hz, 1H), 7.59-7.49 (m, 3H), 7.19-7.13 (m, 1H), 6.83 (d, J=8.0 Hz, 2H), 3.77 (d, J=11.0 Hz, 3H), 3.49 (d, J=12.7 Hz, 1H), 3.32 (dt, J=3.1, 11.9 Hz, 1H), 3.24 (s, 1H), 2.74-2.51 (m, 2H), 1.89 (ddd, J=7.3, 9.3, 14.0 Hz, 1H), 1.60-1.47 (m, 1H), 0.94 (t, J=7.4 Hz, 3H); m/z (ESI, +ve ion) 503.0 (M+H)+. GK-GKRP EC50 (NADPH-coupled)=0.679 μM; GK-GKRP EC50 (LC MS/MS)=1.37 μM.

reactant | 2-Thiophenesulfonyl chloride | 1.5 mmol, 0.28 g | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
reactant | 2-(4-((2S)-2-ethyl-1-piperazinyl)phenyl)-1,1,1,3,3,3-hexafluoro-2-propanol hydrochloride | 1.5 mmol, 0.55 g | Cl.C(C)[C@@H]1N(CCNC1)C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O
reactant | Hünig's base | 4.6 mmol, 0.81 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 7.7 mL | CN(C)C=O | C3H7NO
product | 2-(4-((2S)-2-ethyl-4-(2-thiophenylsulfonyl)-1-piperazinyl)phenyl)-1,1,1,3,3,3-hexafluoro-2-propanol | 0.13 g | C(C)[C@@H]1N(CCN(C1)S(=O)(=O)C=1SC=CC1)C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C19H20F6N2O3S2
